US09403801B2
Step 6) tert-butyl 5-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydro-1H-isoindole-2(3H)-carboxylate
To a suspension of tert-butyl 5-((2,5-dichloropyrimidin-4-yl)amino)hexahydro-1H-isoindole-2(3H)-carboxylate (767.3 mg, 1.98 mmol) and 1-methyl-1H-pyrazol-4-amine hydrochloride (411.5 mg, 3.08 mmol) in n-BuOH (5 mL) was added N-ethyldiisopropylamine (792.9 g, 6.14 mmol). The reaction mixture was stirred at 150° C. in a sealed tube overnight and concentrated in vacuo. The residue was purified by silica gel column chromatography ((EtOAc/PE (v/v)=1/1) to give the title compound as a pale yellow solid (493 mg, 55.6%).

reactant | tert-butyl 5-((2,5-dichloropyrimidin-4-yl)amino)hexahydro-1H-isoindole-2(3H)-carboxylate | 1.98 mmol, 767.3 mg | ClC1=NC=C(C(=N1)NC1CC2CN(CC2CC1)C(=O)OC(C)(C)C)Cl | C17H24Cl2N4O2
reactant | 1-methyl-1H-pyrazol-4-amine hydrochloride | 3.08 mmol, 411.5 mg | Cl.CN1N=CC(=C1)N
reactant | N-ethyldiisopropylamine | 6.14 mmol, 792.9 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | 5 mL | CCCCO | C4H10O
product | tert-butyl 5-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydro-1H-isoindole-2(3H)-carboxylate | 493 mg, 55.6% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CC2CN(CC2CC1)C(=O)OC(C)(C)C | C21H30ClN7O2
